US05876756
4-t-Butoxycarbonyl benzaldoxime
In 100 ml of methanol was dissolved 20.5 g of 4-cyanobenzoic acid t-butyl ester and 13.9 g of hydroxylamine. To the solution was added, while stirring at room temperature, 128 g of triethylamine; The resulting mixture was stirred for one hour at 85° C. then concentrated under reduced pressure. The concentrate was dissolved in ethyl acetate, and the solution was washed with water. The organic layer was concentrated under reduced pressure to give a crude product, which was recrystallized from isopropyl ether to afford 11.45 g of the title compound as a colorless crystalline product.

reactant | 4-cyanobenzoic acid t-butyl ester | 20.5 g | C(C)(C)(C)OC(C1=CC=C(C=C1)C#N)=O | C12H13NO2
reactant | hydroxylamine | 13.9 g | NO | H3NO
reactant | triethylamine | 128 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 100 ml | CO | CH4O
product | 4-t-Butoxycarbonyl benzaldoxime | 11.45 g | C(C)(C)(C)OC(=O)C1=CC=C(C=NO)C=C1 | C12H15NO3
